US03988339
8-Amino-7-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline, prepared as in Example 17, is treated with one molar equivalent of isopropenyl acetate in refluxing ethyl acetate by the procedure of Example 15 to give 2-acetyl-8-amino-7-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline.

reactant | 8-Amino-7-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline | NC=1C(=CC=C2CCNCC12)C(F)(F)F | C10H11F3N2
reactant | isopropenyl acetate | C(C)(=O)OC(=C)C | C5H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-acetyl-8-amino-7-trifluoromethyl-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C(=CC=C2CC1)C(F)(F)F)N | C12H13F3N2O
